US05075461
said 4-benzoyloxy-1-dimethylamino-1-heptene-3,5-dione is heated in an acid chosen from the group consisting of formic acid, acetic acid, propionic acid, oxalic acid, dilute hydrochloric acid and dilute sulfuric acid to form 3-benzoyloxy-2-ethyl-4-pyrone, and,

reactant | 4-benzoyloxy-1-dimethylamino-1-heptene-3,5-dione | C(C1=CC=CC=C1)(=O)OC(C(C=CN(C)C)=O)C(CC)=O | C16H19NO4
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | hydrochloric acid | Cl | ClH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | formic acid | C(=O)O | CH2O2
product | 3-benzoyloxy-2-ethyl-4-pyrone | C(C1=CC=CC=C1)(=O)OC1=C(OC=CC1=O)CC | C14H12O4
